US09145352B2
Next, an aqueous solution (40%) of dimethyl amine (25 equivalents) is added slowly to a THF solution of 1.0 equivalent of 5-bromo-1,1-diphenyl-1-pentene that has been obtained in the previous step. The mixture is then stirred at room temperature for 24 hours, and worked up in the usual manner to yield 5-(N,N-dimethyl)amino-1,1-diphenyl-1-pentene as a yellow oil.

reactant | dimethyl amine | 25 equivalents | CNC | C2H7N
reactant | 5-bromo-1,1-diphenyl-1-pentene | 1.0 equivalent | BrCCCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H17Br
solvent | THF | C1CCOC1 | C4H8O
product | 5-(N,N-dimethyl)amino-1,1-diphenyl-1-pentene | CN(C)CCCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H23N
